data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]C1(CCN(C(C1)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)OCCO.[OH2:10].CCO.[Cl-]>>[H:20][OH2+:10].C1CN(C(CC1([OH:21])OCCO)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=C(O[C+:22]1C)C)Br.[Br-:10]>>[H:20][Br:10].CC1=C[C:21](=[C:22](O1)C)Br 10=20;20,21=21,22
[H:20][O+:21]=C(C)OCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=[O:21])C 10=20;20,21=21
[H:20][OH2+:21].CC(C)O[Al-](O)([O:10]C1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)OC(C)C.CC(C)O.CC(=O)C>>[H:20][O+:10](C1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)[Al-](O)(OC(C)C)OC(C)C.[OH2:21].CC(C)O.CC(=O)C 10=20;20,21=21
[H:20][O:21]O.C(=[O:10])(O[Na])O[Na]>>[H:20][O+:10]=C(O[Na])O[Na].O[O-:21] 10=20;20,21=21
[H:20][CH:21]([CH:22]=[NH+:23]C(=N)N)C#N.[C-:10]#N.O>>[H:20][C:10]#N.[CH:21](=[CH:22][NH:23]C(=N)N)C#N.O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1CC([C:24](=[O+:25][Li-][NH+](C(C)C)C(C)C)[C:23](=[CH:22]1)C)(C)CC=C(C)C.[Li-]([N:10](C(C)C)C(C)C)OC1=C(C=CCC1(C)CC=C(C)C)C>>[H:20][N+:10]([Li-]OC1=C(C=CCC1(C)CC=C(C)C)C)(C(C)C)C(C)C.[Li-]([NH+](C(C)C)C(C)C)[O:25][C:24]1=[C:23]([CH:22]=[CH:21]CC1(C)CC=C(C)C)C 10=20;24,25=25;20,21=21,22;22,23=23,24
C[S-:10].C1CC[S:20][S:21]C1>>C[S:10][S:20]CCCC[S-:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O+:23]CC)OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CC(C)(C)C(=O)[O-:10].CCO>>[H:20][O:10]C(=O)C(C)(C)C.CC[O:23][C:22](=[CH2:21])OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CCO 10=20;22,23=23;20,21=21,22
CC1CC2=CC(=C(C=C2C[C:20]1=[O:21])OC)C.C1CC[NH:10]C1.C1CC[NH2+]C1>>CC1CC2=CC(=C(C=C2C[C:20]1([NH+:10]3CCCC3)[O-:21])OC)C.C1CC[NH2+]C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[CH2:10]=[CH:11]CCCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCCC1=CC=CC=C1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CCOC([CH2:20][Br:21])OCC.CC1=C2C(=C(C=C1OC)C(COCC3=CC=CC=C3)[NH2:10])OCO2.C(=O)([O-])O[K].[K+]>>CCOC([CH2:20][NH2+:10]C(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3)OCC.[Br-:21].C(=O)([O-])O[K].[K+] 10=20;20,21=21
C[C:11]1=[CH:10]C=CC=C1.O[S+:20](=O)=O>>C[C+:11]1C=CC=C[CH:10]1[S:20](=O)(=O)O 10,11=10,20
[Li:11][C:10]1(SCCCS1)[Si](C)(C)C(C)(C)C.[CH2:20]1C([O:21]1)COCC2=CC=CC=C2.CC(C)C>>[Li+:11].CC(C)(C)[Si](C)(C)[C:10]1(SCCCS1)[CH2:20]C(COCC2=CC=CC=C2)[O-:21].CC(C)C 10,11=10,20;20,21=21
[C-:10](Cl)(Cl)[Cl:11].CCO.CC1=C(C=C(C=C1)C(C)C)O.C1=CC(=C(C(=C1)O)Cl)Cl.C1=CC(=NC(=C1)N)N.O.[OH2+][Na].[Na+]>>[C:10](Cl)Cl.[Cl-:11].CCO.CC1=C(C=C(C=C1)C(C)C)O.C1=CC(=C(C(=C1)O)Cl)Cl.C1=CC(=NC(=C1)N)N.O.[OH2+][Na].[Na+] 10,11=11
COC(=O)C(C1=CC=CC=C1)([CH:20](C(=O)C2=CC=CC=C2)[Br:21])[O-:10].C(=[OH+])(O[K])O[K]>>COC(=O)C1([CH:20]([O:10]1)C(=O)C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21].C(=[OH+])(O[K])O[K] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C[O-:10].C1CCOC1.C1=CC=C(C=C1)C2C3=C(C=CC=C3)C(O2)(C4=CC=CC=C4)[O-].[Mg+]Br>>[H:20][O:10]C.C(=O)(C(F)(F)F)[O-:21].C1CCOC1.C1=CC=C(C=C1)C2C3=C(C=CC=C3)C(O2)(C4=CC=CC=C4)[O-].[Mg+]Br 10=20;20,21=21
[H:20][NH+:21](C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)C(C)(CCC(=O)C)O.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][N+:10]1=CC=CC=C1.CC(=O)CCC(C)([NH:21]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CS[CH:10]=[NH:11]>>CS[CH+:10][NH-:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.C[N:10]=CC=C>>[H:20][N+:10](=CC=C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH:21].C=C(CCC=O)[O-:10]>>[H:20][O:10]C(=C)CCC=O.[OH-:21] 10=20;20,21=21
[H:20][O+:21](CC1CC2(C(N1CC)NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)I7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)OC(=O)C.CC(=O)[O-:10].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>[H:20][O:10]C(=O)C.CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)C[O:21]I7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)OC(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
C[Si-:11]1([CH2:10][CH2:20][O:21]1)(C)C>>C[Si:11](C)(C)[O-:21].[CH2:10]=[CH2:20] 10,11=10,20;20,21=21
CCCC(C[C:20](=[OH+:21])[O:10][C:11](C)(C)C)CO.C(=O)(C(F)(F)F)[O-]>>CCCC(C[C:20](=[O:10])[OH:21])CO.C[C+:11](C)C.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21
CC(C)N(CC1=CC=CC=C1)C(=O)C(C(=O)C)[NH2:10].CN1CCC23C[C:20](=[O:21])CCC2(C1CC4=CC=CC=C34)O.CC(=O)O>>CC(C)N(CC1=CC=CC=C1)C(=O)C(C(=O)C)[NH2+:10][C:20]2(CCC3(C4CC5=CC=CC=C5C3(C2)CCN4C)O)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][N+:21](=C(C(C)(C)C)OS(=O)(=O)C(F)(F)F)O[Si](C)(C)C.CC[N:10](CC)CC.C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][N+:10](CC)(CC)CC.CC(C)(C)C(=[N:21]O[Si](C)(C)C)OS(=O)(=O)C(F)(F)F.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].[C-:10]#CCO[AlH3-]>>[H:20][C:10]#CCO[AlH3-].[OH2:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(C)OC1=CC=CC=C1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)([OH:21])OC1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]C(=O)C.CC#[C-:10]>>[H:20][C:10]#CC.CC(=O)[O-:21] 10=20;20,21=21
[B:20](F)(F)F.CCC=[O:10].CCCC[Sn](CCCC)(CCCC)C1C=CCC=C1>>[B-:20]([O+:10]=CCC)(F)(F)F.CCCC[Sn](CCCC)(CCCC)C1C=CCC=C1 10=20,
[H:20][OH2+:21].CC[O:10]C(CC(=O)C)(O)O>>[H:20][O+:10](CC)C(CC(=O)C)(O)O.[OH2:21] 10=20;20,21=21
CC=C[CH:20]1C([Br+:21]1)C.[Br-:10]>>CC=C[CH:20](C(C)[Br:21])[Br:10] 10=20;20,21=21
